* Sramgen control circuit

* Standard cells
* .subckt sky130_fd_sc_lp__inv_2 A VGND VNB VPB VPWR Y
.subckt control_logic_inv din din_b vdd vss
X0 vss din din_b vss sky130_fd_pr__nfet_01v8 w=840000u l=150000u
X1 din_b din vdd vdd sky130_fd_pr__pfet_01v8_hvt w=1.26 l=150000u
X2 vdd din din_b vdd sky130_fd_pr__pfet_01v8_hvt w=1.26 l=150000u
X3 din_b din vss vss sky130_fd_pr__nfet_01v8 w=840000u l=150000u
.ends

* .subckt sky130_fd_sc_lp__buf_2 A VGND VNB VPB VPWR X
.subckt control_logic_buf A X vdd vss
X0 vss a_90_21# X vss sky130_fd_pr__nfet_01v8 w=840000u l=150000u
X1 vdd a_90_21# X vdd sky130_fd_pr__pfet_01v8_hvt w=1.26 l=150000u
X2 X a_90_21# vss vss sky130_fd_pr__nfet_01v8 w=840000u l=150000u
X3 X a_90_21# vdd vdd sky130_fd_pr__pfet_01v8_hvt w=1.26 l=150000u
X4 vdd A a_90_21# vdd sky130_fd_pr__pfet_01v8_hvt w=640000u l=150000u
X5 vss A a_90_21# vss sky130_fd_pr__nfet_01v8 w=420000u l=150000u
.ends

* .subckt sky130_fd_sc_lp__and2_2 A B VGND VNB VPB VPWR X
.subckt control_logic_and2 A B X vdd vss
X0 a_129_47# B vss vss sky130_fd_pr__nfet_01v8 w=420000u l=150000u
X1 vdd a_46_47# X vdd sky130_fd_pr__pfet_01v8_hvt w=1.26 l=150000u
X2 vss a_46_47# X vss sky130_fd_pr__nfet_01v8 w=840000u l=150000u
X3 X a_46_47# vss vss sky130_fd_pr__nfet_01v8 w=840000u l=150000u
X4 a_46_47# A a_129_47# vss sky130_fd_pr__nfet_01v8 w=420000u l=150000u
X5 X a_46_47# vdd vdd sky130_fd_pr__pfet_01v8_hvt w=1.26 l=150000u
X6 vdd A a_46_47# vdd sky130_fd_pr__pfet_01v8_hvt w=420000u l=150000u
X7 a_46_47# B vdd vdd sky130_fd_pr__pfet_01v8_hvt w=420000u l=150000u
.ends

.subckt control_logic_delay_chain din dout vdd vss
Xinv0 din din_b vdd vss control_logic_inv
Xinv1 din_b tmp1 vdd vss control_logic_inv
Xinv2 tmp1 tmp2 vdd vss control_logic_inv
Xinv3 tmp2 tmp3 vdd vss control_logic_inv
Xinv4 tmp3 tmp4 vdd vss control_logic_inv
Xinv5 tmp4 tmp5 vdd vss control_logic_inv
Xinv6 tmp5 tmp6 vdd vss control_logic_inv
Xinv7 tmp6 tmp7 vdd vss control_logic_inv
Xinv8 tmp7 tmp8 vdd vss control_logic_inv
Xinv9 tmp8 tmp9 vdd vss control_logic_inv
Xinv10 tmp9 tmp10 vdd vss control_logic_inv
Xinv11 tmp10 tmp11 vdd vss control_logic_inv
Xinv12 tmp11 tmp12 vdd vss control_logic_inv
Xinv13 tmp12 tmp13 vdd vss control_logic_inv
Xinv14 tmp13 tmp14 vdd vss control_logic_inv
Xinv15 tmp14 tmp15 vdd vss control_logic_inv
Xinv16 tmp15 tmp16 vdd vss control_logic_inv
Xinv17 tmp16 tmp17 vdd vss control_logic_inv
Xinv18 tmp17 tmp18 vdd vss control_logic_inv
Xinv19 tmp18 tmp19 vdd vss control_logic_inv
Xinv20 tmp19 tmp20 vdd vss control_logic_inv
Xinv21 tmp20 tmp21 vdd vss control_logic_inv
Xinv22 tmp21 tmp22 vdd vss control_logic_inv
Xinv23 tmp22 tmp23 vdd vss control_logic_inv
Xinv24 tmp23 dout vdd vss control_logic_inv
.ends

.subckt sramgen_control clk we pc_b wl_en write_driver_en sense_en vdd vss
* INPUT: clk we
* OUTPUT: pc_b wl_en write_driver_en sense_en
* INOUT: vdd vss

* PC_B = !CLK
Xinv_pc clk pc_b vdd vss control_logic_inv

* WL_EN = buffer(PC_B)
Xbuf_wl_en pc_b wl_en vdd vss control_logic_buf

* WRITE_DRIVER_EN = WL_EN && WE
Xand2 wl_en we write_driver_en vdd vss control_logic_and2

* SENSE_EN = delay(!CLK)
X_delay_sae clk sense_en vdd vss control_logic_delay_chain
.ends

